US04055595
The 2-chloromethyl-6-methoxynaphthalene used as starting material is obtained from methyl 6-methoxy-2-naphthoate by reaction with sodium dihydro-bis-(2-methoxyethoxy)aluminate to give 2-hydroxymethyl-6-methoxynaphthalene, m.p. 118°-120° C. and reaction with thionyl chloride to give 2-chloromethyl-6-methoxynaphthalene, m.p. 63°-65° C. by the general procedure described in Example 4 for the preparation of 2-chloromethyl-6-chloronaphthalene.

reactant | 2-hydroxymethyl-6-methoxynaphthalene | OCC1=CC2=CC=C(C=C2C=C1)OC | C12H12O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-chloromethyl-6-methoxynaphthalene | ClCC1=CC2=CC=C(C=C2C=C1)OC | C12H11ClO
